Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx of headaches, prediabetes, childhood polio 
resulting in residual right leg weakness who was admitted with 
altered mental status and a fall.  
 Per report, patient was at home alone and had a fall shortly 
before dinner time. The patient does not remember anything about 
these events. She knows that she was listening to a book on tape 
at home alone earlier today. She does not think that she took 
any of her medications. Patient's husband returned home to 
notice blood in the bathroom and patient with nasal abrasion, 
confused standing in the bedroom. He thinks that she was on the 
toilet and fell forward, hitting her nose. Blood was not fresh 
so he thinks this happened >30 minutes prior to him getting 
home. Patient was confused when he got home. She embraced him 
but had a blank stare on her face. Somnolence continued and the 
patient was eventually brought into ___ for further 
evaluation.  
 In the ED, initial vitals were: 98.7, 86, 154/60, 16, 100% RA  
 - Exam notable for: altered, not oriented  
 - Labs notable for: Cr 0.7, Lactate 1.7, CK 203, LFTs wnl. 
Urine tox positive for opioids, CBC wnl  
 - Imaging was notable for: CT head, C spine no fractures of 
acute process  
 - Neurology was consulted: Exam was notable for sleepy and 
inattention with baseline RLE weakness. Recommend admission to 
medicine for toxic metabolic work up, fall and EEG monitoring to 
r/o seizure.  
 - Patient was given: Nothing  
 - Vitals prior to transfer: 98.3, 70, 146/72, 10, 99% RA  
 
 Upon arrival to the floor, patient reports the above history. 
She is with her husband. She does not remember which medications 
she has taken recently. Both her and her husband recently 
returned from a 2 week trip to ___. They felt well during the 
trip but since returning have both had a cough with runny noses. 
Denies fevers, chills. No sick contacts. No past syncope. Did 
have a fall several days ago at home but husband states this was 
in the setting of her being clumsy. She has right lower 
extremity weakness from polio
 
Past Medical History:
Migraine headaches  
Prediabetes 
 
Social History:
___
Family History:
No family history of seizures  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: 98.1, 151/82, 73 18 98 ra  
General: AOX3 but slow to respond to questions. frequent 
blinking. dazed look on face.  
HEENT: sclera anicteric, MMM, oropharynx clear, non tender 
bilateral LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
allops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no ebound tenderness or guarding, no organomegaly  
Ext: right lower extremity with muscle atrophy compared with 
left. decreased strength and sensation to light touch on right 
lower extremity. no edema  
Neuro: CNs2-12 intact, motor function grossly normal with 
exception of right lower extremity. slow to respond to questions

DISCHARGE PHYSICAL EXAM:
========================
VS: T 98.4, HR 70, BP 134/82, RR 20, O2 99% RA  
GENERAL: Lying in bed, appears comfortable, NAD
HEENT: NC/AT, sclerae anicteric, MMM  
LUNGS: Clear to auscultation bilaterally, no w/r/r  
HEART:  RRR, normal S1/S2, no m/r/g
ABDOMEN: NABS, soft/NT/ND.  
EXTREMITIES: WWP  
NEURO: A&O x3, CN II-XII intact, strength ___ in UE bilaterally, 
___ in LLE, RLE ___ hip flexion, ___ plantar/dorsiflexion 
(chronic per pt). SILT. Able to do days of week backwards, 
unable to do serial 7s.
 
Pertinent Results:
PERTINENT LABS:
===============
___ 11:15PM BLOOD WBC-6.4 RBC-3.85* Hgb-11.4 Hct-36.2 
MCV-94 MCH-29.6 MCHC-31.5* RDW-14.5 RDWSD-50.2* Plt ___
___ 11:15PM BLOOD Neuts-74.8* Lymphs-18.8* Monos-4.8* 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-4.80 AbsLymp-1.21 
AbsMono-0.31 AbsEos-0.05 AbsBaso-0.01
___ 11:15PM BLOOD ___ PTT-26.8 ___
___ 11:15PM BLOOD Glucose-216* UreaN-10 Creat-0.7 Na-136 
K-4.0 Cl-101 HCO3-26 AnGap-13
___ 11:15PM BLOOD ALT-12 AST-16 CK(CPK)-203* AlkPhos-64 
TotBili-<0.2
___ 11:15PM BLOOD cTropnT-<0.01
___ 11:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:20PM BLOOD Lactate-1.7

IMAGING/STUDIES:
================
CT HEAD ___:
1. No intracranial hemorrhage or fracture. 
2. Paranasal sinus disease, suggestive of acute sinusitis. 

CT C-SPINE ___:
No fracture or traumatic malalignment in the cervical spine

CXR ___:
No focal consolIdation.
 
Brief Hospital Course:
___ year-old woman with PMHx of headaches, prediabetes, childhood 
polio resulting in residual right leg weakness who was admitted 
with altered mental status and a fall. 

#FALL: Unclear etiology of fall as patient does not remember 
sequence of events and fall was not witnessed. Differential 
includes syncopal episode vs. fall in the setting of physical 
impairment exacerbated by encephalopathy as below, vs. less 
likely seizure. Telemetry w/o arrhythmia and no history of 
cardiac disease. Given lack of clear history unable to determine 
whether more consistent with syncope or mechanical fall in 
setting of encephalopathy. ___ and OT evaluated and felt that she 
was at her baseline. They also felt that there was no 
significant benefit to a cane or walker so they recommended that 
the patient could return home safely.

#ENCEPHALOPATHY: Presented altered and inattentive on admission, 
now largely resolved, but still without memory of events prior 
to admission. CT head negative for acute process. CT head 
negative for acute process. No fever or leukocytosis to suggest 
infectious etiology. No hypoglycemia, not using insulin at home. 
Evaluated by neurology in ED who recommended EEG to rule out 
seizure, which was deferred to outpatient given low suspicion 
for seizure and predominantly resolved encephalopathy. On 
multiple sedating medications at home which could easily have 
contributed to encephalopathy and lead to fall in setting of 
baseline physical impairment. Additionally, encephalopathy may 
be due to post-concussive syndrome after fall. Will need 
outpatient EEG

#CHRONIC MIGRAINES/HEADACHES. Debilitating to the point that she 
is limited in her ADLs. Currently only taking Tramadol per 
report though does not recall full medication list. Currently 
w/o headache, home tramadol held in setting of encephalopathy

#HYPERGLYCEMIA: Glucose elevated >200s on admission. Patient 
denies diagnosis of diabetes though appears to previously have 
been on insulin. Fingerstick 180 morning of discharge, should 
have outpatient follow-up

TRANSITIONAL ISSUES:
[] Glucose elevated on admission to 200s, denies diagnoses of 
diabete/prediabetes. Appears to have been on insulin in past. 
Please evaluate and consider appropriate therapy.
[] Given suspicion for medication-related encephalopathy would 
benefit from review of medications and minimizing sedating 
medications as able. 
[] Needs an outpatient EEG- nonurgent.

# CONTACT: Husband, cell: ___ 
# DISPO: Home
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
2. Baclofen Dose is Unknown  PO DAILY:PRN Back Pain 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

5. TraZODone 300 mg PO QHS 
6. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Baclofen Dose is Unknown  PO DAILY:PRN Back Pain  
2.  Levothyroxine Sodium 25 mcg PO DAILY  
3.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
4.  Pravastatin 20 mg PO QPM  
5.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  
6.  TraZODone 300 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fall
Encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
DISCHARGE WORKSHEET INSTRUCTIONS:

Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You were confused and had a fall at home

WHAT HAPPENED IN THE HOSPITAL?
-Blood work did not show signs of infection
-CT scans showed no injuries to your head or neck
-Your confusion improved
-You were evaluated by physical and occupational therapy who 
felt that you were at your baseline. You need to be more careful 
with your medications that you take and be careful to use your 
walking sticks at home especially at night.

WHAT SHOULD YOU DO AT HOME?
-Please follow-up with your primary care doctor as listed below
-___ will need an EEG as an outpatient. Your PCP should schedule 
this for you.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___